US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninamide
The title compound was prepared in analogy to 3-amino-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4,4,4-trifluorobutanamide in Example 42-1 in Scheme 19 by using 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine and 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propanoyl chloride. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CDCl3) δ ppm 8.00 (d, J=7.83 Hz, 1 H), 8.29 (s, 1 H), 7.85 (d, J=7.33 Hz, 1 H), 7.61-7.47 (m, 4 H), 7.34 (d, J=12.13 Hz, 2 H), 5.12 (s, 2 H), 3.55 (brs, 2 H), 3.23 (d, J=5.56 Hz, 2 H), 2.62 (brs, 2 H), 2.44 (brs, 3 H), 1.66-2.10 (m, 2 H).

reactant | 3-amino-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4,4,4-trifluorobutanamide | NC(CC(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)C(F)(F)F | C23H23F3N4O3S
reactant | 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N)C)=O | C19H19N3O2S
reactant | 3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propanoyl chloride | O=C1N(C(C2=CC=CC=C12)=O)CCC(=O)Cl | C11H8ClNO3
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninamide | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(CCN)=O)C)=O | C22H24N4O3S
